US05360822
60% Sodium hydride (3.0 g) was suspended in 20 ml of N,N-dimethylformamide, then 8.4 g of nitro-methane was gradually dropped thereinto with ice-cooling and stirring and the mixture was stirred at room temperature for 30 minutes. 2-Fluoro-5-methanesulfonylaminobenzoic acid (8.0 g) and 6.7 g of N,N'-carbonyldiimidazole were dissolved in 30 ml of N,N-dimethylformamide and the solution was made to react at room temperature for 1 hour. The reaction mixture was added, with ice-cooling, to the solution obtained hereinbefore and the mixture was stirred at room temperature for 2 hours. Then, the mixture was poured into ice water, acidified with hydrochloric acid and the crystals separated out therefrom were filtered, washed with small amount of ethanol and dried to give 8.2 g of 4'-fluoro-3'-(2-nitroacetyl)-methanesulfonanilide, m.p. 174°-176 ° C.

reactant | Sodium hydride | 3.0 g | [H-].[Na+]
reactant | nitro-methane | 8.4 g | [N+](=O)([O-])C | CH3NO2
reactant | 2-Fluoro-5-methanesulfonylaminobenzoic acid | 8.0 g | FC1=C(C(=O)O)C=C(C=C1)NS(=O)(=O)C | C8H8FNO4S
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4'-fluoro-3'-(2-nitroacetyl)-methanesulfonanilide | 8.2 g | FC1=C(C=C(NS(=O)(=O)C)C=C1)C(C[N+](=O)[O-])=O | C9H9FN2O5S
